US09376622B2
65 mmol of 2-iodo-5-propylpyrimidine and 65 mmol of 2-chloro-3-fluoro-5-(4,4,5,5-tetraethyl-1,3,2-dioxaborolan-2-yl)pyridine are dissolved in 155 ml of dioxane, and 130 mmol of tripotassium phosphate and 2 mmol of tetrakis(triphenylphosphine)palladium catalyst are added. The mixture is heated at 100° C. for 17 hours with stirring. Water and methyl tert-butyl ether are added to the reaction solution, and the organic phase is washed with water, dried using sodium sulfate and evaporated. The residue is purified by chromatography on silica gel with dichloromethane/MTB ether 90/10, giving 2-(6-chloro-5-fluoropyridin-3-yl)-5-propylpyrimidine.

reactant | 2-iodo-5-propylpyrimidine | 65 mmol | IC1=NC=C(C=N1)CCC | C7H9IN2
reactant | 2-chloro-3-fluoro-5-(4,4,5,5-tetraethyl-1,3,2-dioxaborolan-2-yl)pyridine | 65 mmol | ClC1=NC=C(C=C1F)B1OC(C(O1)(CC)CC)(CC)CC | C15H22BClFNO2
reactant | tripotassium phosphate | 130 mmol | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | Water | O | H2O
solvent | dioxane | 155 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 2 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | methyl tert-butyl ether | C(C)(C)(C)OC | C5H12O
product | 2-(6-chloro-5-fluoropyridin-3-yl)-5-propylpyrimidine | ClC1=C(C=C(C=N1)C1=NC=C(C=N1)CCC)F | C12H11ClFN3
